US08877760B2
To a solution of crude 3-aminothiophene-2-carbothioamide in MeOH (5 mL) was added H2O2 (30%, 0.6 mL), after stirring at room temperature for 15 min, it was concentrated to remove most of MeOH, and then diluted with EtOAC, organic layer was washed with brine, concentrated to give crude pdt, purification by column chromatography (DCM/EtOAC=3:1) gave thieno[3,2-c]isothiazol-3-amine (334 mg).

reactant | 3-aminothiophene-2-carbothioamide | NC1=C(SC=C1)C(N)=S | C5H6N2S2
reactant | H2O2 | 0.6 mL | OO | H2O2
solvent | MeOH | 5 mL | CO | CH4O
product | thieno[3,2-c]isothiazol-3-amine | 334 mg | N=1SC(=C2C1C=CS2)N | C5H4N2S2
